US05958942
iv) Synthesis of 4,5-dihydro-4-(3-trifluoromethane sulfonamidopropan-1-yl)-3H-1,4,8b-triazaacenaphthylene-dihydrochloride
To a solution of 248 mg (0.72 mmol) of 4,5-dihydro-4-(3-trifluoromethanesulfonamidopropan-1-yl)-3H-1,4,8b-triazaacenaphthylene in 5.0 ml of ethanol was added 0.18 ml (2.16 mmol) of 12N HCl. The mixture was stirred, and concentrated under reduced pressure. resulting precipitates were washed with a small volume of ethanol and ether to afford 253 mg of the desired compound (84.2%, a white solid).

reactant | 4,5-dihydro-4-(3-trifluoromethanesulfonamidopropan-1-yl)-3H-1,4,8b-triazaacenaphthylene | 0.72 mmol, 248 mg | FC(S(=O)(=O)NCCCN1CC2=CN=C3C=CC=C(C1)N32)(F)F | C13H15F3N4O2S
reactant | HCl | 2.16 mmol, 12N, 0.18 ml | Cl | ClH
solvent | ethanol | 5.0 ml | C(C)O | C2H6O
product | 4,5-dihydro-4-(3-trifluoromethane sulfonamidopropan-1-yl)-3H-1,4,8b-triazaacenaphthylene-dihydrochloride | 253 mg | Cl.Cl.FC(S(=O)(=O)NCCCN1CC2=CN=C3C=CC=C(C1)N32)(F)F | InChI=1S/C13H15F3N4O2S.2ClH/c14-13(15,16)23(21,22)18-5-2-6-19-8-10-3-1-4-12-17-7-11(9-19)20(10)12;;/h1,3-4,7,18H,2,5-6,8-9H2;2*1H
